US08309546B2
Step 2: 2-Chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purine
Potassium carbonate (36.0 g, 260.5 mmol) and cyclopropylmethyl bromide (20.2 g, 143.3 mmol) were added to an N,N-dimethylformamide suspension (400 ml) of 2-chloro-6-morpholin-4-yl-9H-purine (32.4 g; purity, approx. 96%; 130.2 mmol) at room temperature and the resulting mixture was stirred at 80° C. for 3 hours in a nitrogen atmosphere. The reaction mixture was left standing to cool, then poured into ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting solid was washed with diethyl ether and collected by filtration to give the title compound (26.9 g, 70%) as a colorless acicular crystal. The mother liquor was further concentrated by the same procedure to give the secondary crystal of the title compound (7.68 g, 20%) as a white solid.

reactant | Potassium carbonate | 260.5 mmol, 36.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylmethyl bromide | 143.3 mmol, 20.2 g | C1(CC1)CBr | C4H7Br
reactant | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-6-morpholin-4-yl-9H-purine | 130.2 mmol, 32.4 g | ClC1=NC(=C2N=CNC2=N1)N1CCOCC1 | C9H10ClN5O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purine | 26.9 g, 70% | ClC1=NC(=C2N=CN(C2=N1)CC1CC1)N1CCOCC1 | C13H16ClN5O
